US08404719B2
To 2-chloro-5-(chlorosulfonyl)-4-fluorobenzoic acid (1.092 g, 4.0 mmol) was added dichloromethane (10 mL), oxalyl chloride (2.8 mL) and one small drop of N,N-dimethylformamide. The mixture was stirred at room temperature overnight. The mixture was then concentrated to give 2-chloro-5-(chlorosulfonyl)-4-fluorobenzoyl chloride which was used without additional purification.

reactant | 2-chloro-5-(chlorosulfonyl)-4-fluorobenzoic acid | 4.0 mmol, 1.092 g | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)Cl | C7H3Cl2FO4S
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | oxalyl chloride | 2.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-chloro-5-(chlorosulfonyl)-4-fluorobenzoyl chloride | ClC1=C(C(=O)Cl)C=C(C(=C1)F)S(=O)(=O)Cl | C7H2Cl3FO3S
